US07402698B2
To a solution of tert-butyl 4-(2-(1-hydroxycyclohexyl)-2-{3-[(trimethylsilyl)ethynyl]phenyl}ethyl)piperazine-1-carboxylate (104 mg, 0.215 mmol) in methanol (3 mL) was added potassium carbonate (300 mg, 2.17 mmol) and the mixture was stirred for 30 min at room temperature. The reaction mixture was quenched with aqueous ammonium chloride (5 mL) and extracted with ethyl acetate. The organic layer was washed with water, brine, dried (sodium sulfate), filtered and concentrated to give a crude oil, which was purified via silica gel flash chromatography (gradient from 10% ethyl acetate/hexane to 30% ethyl acetate/hexane) to yield 70 mg (80%) tert-butyl 4-[2-(3-ethynylphenyl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate as a white solid. MS (ESI) m/z 413 ([M+H]+); HRMS: calcd for C25H36N2O3+H, 413.2804; found (ESI, [M+H]+), 413.2809.

reactant | tert-butyl 4-(2-(1-hydroxycyclohexyl)-2-{3-[(trimethylsilyl)ethynyl]phenyl}ethyl)piperazine-1-carboxylate | 0.215 mmol, 104 mg | OC1(CCCCC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)C#C[Si](C)(C)C | C28H44N2O3Si
reactant | potassium carbonate | 2.17 mmol, 300 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 3 mL | CO | CH4O
product | tert-butyl 4-[2-(3-ethynylphenyl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate | 70 mg, 80% | C(#C)C=1C=C(C=CC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1(CCCCC1)O | C25H36N2O3
